US08232395B2
25 g of ethyl 2-(2-methylaminopyrimidin-4-yl)-1H-indole-5-carboxylate were admixed with 200 ml of ethanol and 24.5 g of 33% sodium hydroxide solution, and heated to from 65° C. to 70° C. for 4 h. After cooling, the mixture was filtered with suction and the precipitate was washed with 15 ml of ethanol/water (9:1). 24.5 g (87.6% of theory) of 2-(2-methylaminopyrimidin-4-yl)-1H-indole-5-carboxylic acid sodium salt were obtained (98.1 HPLC area %). LCMS: [M+H]⊕269.10

reactant | ethyl 2-(2-methylaminopyrimidin-4-yl)-1H-indole-5-carboxylate | 25 g | CNC1=NC=CC(=N1)C=1NC2=CC=C(C=C2C1)C(=O)OCC | C16H16N4O2
reactant | sodium hydroxide | 24.5 g | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(2-methylaminopyrimidin-4-yl)-1H-indole-5-carboxylic acid sodium salt | 24.5 g, 87.6% | [Na+].CNC1=NC=CC(=N1)C=1NC2=CC=C(C=C2C1)C(=O)[O-] | InChI=1S/C14H12N4O2.Na/c1-15-14-16-5-4-11(18-14)12-7-9-6-8(13(19)20)2-3-10(9)17-12;/h2-7,17H,1H3,(H,19,20)(H,15,16,18);/q;+1/p-1
